US04086303
Preparation of Tris(2-chloroethyl)Phosphate/Dimethyl Methylphosphonate Copolycondensation Product Without Use of Catalyst
A mixture of 571 g. of tris(2-chloroethyl) phosphate and 531 g. of dimethyl methylphosphonate was heated at 181°-197° C until 287.5 of methylchloride was evolved; this required 26 hours. The product was then heated at 95° with 28.2 g. of methenol, and finally treated with ethylene oxide at 90 - 100° until substantially neutral. The product was useful as a flame retardant at 5 - 10 phr. in a styrenated polyester.

reactant | tris(2-chloroethyl) phosphate | P(=O)(OCCCl)(OCCCl)OCCCl | C6H12Cl3O4P
reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | methylchloride | CCl | CH3Cl
reactant | ethylene oxide | C1CO1 | C2H4O
product | Tris(2-chloroethyl)Phosphate Dimethyl Methylphosphonate | ClCCOP(=O)(OCCCl)OCCCl.CP(OC)(OC)=O | InChI=1S/C6H12Cl3O4P.C3H9O3P/c7-1-4-11-14(10,12-5-2-8)13-6-3-9;1-5-7(3,4)6-2/h1-6H2;1-3H3
